US08080669B2
Preparation of 4-[2-(2-Methyl-5-nitro-phenylamino)-oxazol-5-yl]-benzonitrile
The same procedure outlined above in the preparation of 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile was used. However N-(2-methyl-5-nitro-phenyl)-acetamide was used instead N-(5-Amino-2-methyl-phenyl)-acetamide. Yield=83%. m.p.>228° C.

reactant | 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile | NC=1C=CC(=C(C1)NC=1OC(=CN1)C1=CC=C(C#N)C=C1)C | C17H14N4O
reactant | N-(2-methyl-5-nitro-phenyl)-acetamide | CC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C9H10N2O3
reactant | N-(5-Amino-2-methyl-phenyl)-acetamide | NC=1C=CC(=C(C1)NC(C)=O)C | C9H12N2O
product | 4-[2-(2-Methyl-5-nitro-phenylamino)-oxazol-5-yl]-benzonitrile | Yield=83% | CC1=C(C=C(C=C1)[N+](=O)[O-])NC=1OC(=CN1)C1=CC=C(C#N)C=C1 | C17H12N4O3
